US07012075B2
To an ice cold solution of ethyl 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoate (457 mg, 1.3 mmol) in TBF (8 mL) and MeOH (3 mL) was added a 1.0 N aq. solution of LiOH (2 mL, 2.0 mmol) dropwise. The resulting mixture was stirred at room temperature for 18 h and partitioned between EtOAc and water+1.0 N HCl (5 mL). The organic layer was dried over Na2SO4 and concentrated in vacuo to give 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoic acid.

reactant | ethyl 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoate | 1.3 mmol, 457 mg | BrC1=CC=C(C=C1)SC(C(=O)OCC)CC1(CC1)C | C15H19BrO2S
reactant | LiOH | 2.0 mmol, 2 mL | [Li+].[OH-]
solvent | MeOH | 3 mL | CO | CH4O
product | 2-[(4-bromophenyl)thio]-3-(1-methylcyclopropyl)propanoic acid | BrC1=CC=C(C=C1)SC(C(=O)O)CC1(CC1)C | C13H15BrO2S
